US04937246
A mixture of 3,4-dimethoxyphenol (10 g), ethyl 4-bromo-butyrate (15.2 g), anhydrous potassium carbonate (11.7 g), potassium iodide (1.5 g) and N,N-dimethylformamide (40 ml) is stirred for 15 hours at 60° to 70° C. The reaction mixture is poured into ice-water and extracted with ethyl acetate. The organic layer is washed with water, dried, and concentrated under reduced pressure. The residue is dissolved in methanol (30 ml), to the solution is added a 2.5N aqueous solution of sodium hydroxide (67 ml), and the mixture is stirred for 40 mintues at 50° to 60° C. The reaction mixture is concentrated under reduced pressure. To the concentrate is added water, and the mixture is acidified (pH 3) with dilute hydrochloric acid, followed by extraction with ethyl acetate. The organic layer is washed with water, dried, and concentrated under reduced pressure. The residue is recrystallized from ethyl acetate - hexane to give 4-(3,4-dimethoxyphenyloxy)butyric acid as colorless prisms (12.5 g). To polyphosphoric acid (60 g) is added 4-(3,4-dimethoxyphenyloxy)butyric acid (6.0 g) obtained above, and the mixture is stirred for 30 minutes at 100° C. The reaction mixture is poured into ice-water and extracted with ethyl acetate. The organic layer is washed with water, dried, and concentrated. The residue is recrystallized from ethyl acetate - hexane to give 7,8-dimethoxy-3,4-dihydro-1benzoxepin-5(2H)-one as colorless prisms, m.p. 87°-88° C.

reactant | 3,4-dimethoxyphenol | 10 g | COC=1C=C(C=CC1OC)O | C8H10O3
reactant | ethyl 4-bromo-butyrate | 15.2 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 11.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.5 g | [I-].[K+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-(3,4-dimethoxyphenyloxy)butyric acid | 12.5 g | COC=1C=C(C=CC1OC)OCCCC(=O)O | C12H16O5
